US05278326
Step C: Preparation of 13-[(tetrahydro-2H-pyran-2-yl)oxy]-2-tridecanone
The title compound was prepared from 3-oxo-14-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanoic acid ethyl ester (7.97 g, 0.021 mol), 1,4-diazabicyclo-[2.2.2]octane (24.13 g, 0.215 mol), and xylenes (39.3 mL, 15 eq) using the procedure described in Example 3, Step B.

reactant | 3-oxo-14-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanoic acid ethyl ester | 0.021 mol, 7.97 g | C(C)OC(CC(CCCCCCCCCCCOC1OCCCC1)=O)=O | C21H38O5
reactant | 1,4-diazabicyclo-[2.2.2]octane | 0.215 mol, 24.13 g | N12CCN(CC1)CC2 | C6H12N2
product | 13-[(tetrahydro-2H-pyran-2-yl)oxy]-2-tridecanone | O1C(CCCC1)OCCCCCCCCCCCC(C)=O | C18H34O3
